US07709473B2
To a solution of 400 mg of methyl 2-(2-tert-butyl-8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-2-methyl-propionate in dioxane (10.0 mL) was added 6.0 N KOH (1.0 mL) and the mixture was heated at reflux for 16 h. The reaction mixture was cooled to ambient temperature, diluted with water, the pH was adjusted to 2.0 with 6.0 N HCl, and the mixture was extracted with EtOAc (2×). The organic extracts were dried over magnesium sulfate, filtered, and concentrated to leave 2-(2-tert-butyl-8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-2-methyl-propionic acid as a white solid. MS (M+H+)=336.3.

reactant | methyl 2-(2-tert-butyl-8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-2-methyl-propionate | 400 mg | C(C)(C)(C)N1N=C2N(C=C(N=C2NC(C)C)C(C(=O)OC)(C)C)C1=O | C17H27N5O3
reactant | KOH | 6.0 N, 1.0 mL | [OH-].[K+]
reactant | HCl | 6.0 N | Cl | ClH
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-(2-tert-butyl-8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-2-methyl-propionic acid | C(C)(C)(C)N1N=C2N(C=C(N=C2NC(C)C)C(C(=O)O)(C)C)C1=O | C16H25N5O3
